US07396844B1
Synthesis of ethyl 4-(2-1H-imidazolyl)benzoate
500 mg (2.3 mmol) of ethyl 4-(2-imidazoline-2-yl)benzoate and 500 mg of 10% palladium/carbon were heated in 20 ml of toluene under reflux in argon atmosphere for 9 hours. The reaction liquid was diluted with ethyl acetate and filtered through Celite. The filtrate was concentrated to obtain the title compound.

reactant | ethyl 4-(2-imidazoline-2-yl)benzoate | 2.3 mmol, 500 mg | N1C(=NCC1)C1=CC=C(C(=O)OCC)C=C1 | C12H14N2O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | 500 mg | [Pd] | Pd
product | ethyl 4-(2-1H-imidazolyl)benzoate | N1C(=NC=C1)C1=CC=C(C(=O)OCC)C=C1 | C12H12N2O2
